US06080870
Step A: Preparation of 4-hydroxymethyl-biphenyl-3-carbaldehyde
To a solution of 4-biphenylmethanol (0.368 g, 2 mmol) in ether (25 mL) and TMEDA (1.21 mL, 8 mmol), at 0° C. was added n-butyllithium (2.5N hexanes; 3.2 mL, 8 mmol). The solution was then heated at reflux for 1 h, cooled to -60° C. and CuCN (0.2 g, 2.2 mmol) added. After 30 minutes, the solution was cooled to -78° C. and N-formylpiperidine (1.11 mL, 10 mmol) was then added dropwise and stirring was continued for 1 h. The mixture was then warmed to -10° C., quenched with saturated NH4Cl, extracted with ether washed with brine, dried and the solvent removed in vacuo. Chromatography of the residue (silica gel; hexane:EtOAc 4:1) afforded the title compound as a colorless oil.

reactant | 4-biphenylmethanol | 2 mmol, 0.368 g | C1(=CC=C(C=C1)CO)C1=CC=CC=C1 | C13H12O
reactant | TMEDA | 8 mmol, 1.21 mL | CN(C)CCN(C)C | C6H16N2
reactant | n-butyllithium | 8 mmol, 2.5N, 3.2 mL | C(CCC)[Li]
reactant | CuCN | 2.2 mmol, 0.2 g | C(#N)[Cu]
reactant | N-formylpiperidine | 10 mmol, 1.11 mL | C(=O)N1CCCCC1 | C6H11NO
solvent | ether | 25 mL | CCOCC | C4H10O
product | 4-hydroxymethyl-biphenyl-3-carbaldehyde | OCC1=C(C=C(C=C1)C1=CC=CC=C1)C=O | C14H12O2
